### PR TITLE
[Merged by Bors] - feat(RingTheory): `IsStandardEtale`

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Etale/StandardEtale.lean [hunk 1]
```diff
@@ -235,3 +239,176 @@ lemma equivMvPolynomialQuotient_symm_apply :
...
+/-- An isomorphism to the standard etale algebra of a standard etale pair. -/
+structure StandardEtalePresentation extends P : StandardEtalePair R where
+  x : S
+  hasMap : P.HasMap x
+  lift_bijective : Function.Bijective (P.lift x hasMap)
+
+variable (P : StandardEtalePresentation R S)
+
+/-- The isomorphism to the standard etale algebra given a `StandardEtalePresentation`. -/
+def StandardEtalePresentation.equivRing : S ≃ₐ[R] P.Ring :=
```
Comment (chrisflav) [inline Mathlib/RingTheory/Etale/StandardEtale.lean:257]: I find it quite confusing that `P.Ring` is the quotient and not a polynomial ring, because `Generators.Ring` is *not* the quotient.

File: Mathlib/RingTheory/Etale/StandardEtale.lean [hunk 2]
```diff
@@ -235,3 +239,176 @@ lemma equivMvPolynomialQuotient_symm_apply :
   simp [equivMvPolynomialQuotient, StandardEtalePair.Ring]; rfl
 
 end StandardEtalePair
+
+variable (R S) in
+/-- An isomorphism to the standard etale algebra of a standard etale pair. -/
+structure StandardEtalePresentation extends P : StandardEtalePair R where
```
Comment (chrisflav) [inline Mathlib/RingTheory/Etale/StandardEtale.lean]: Could you please repeat the arguments `R`, `S`, etc. explicitly here? This would make it much more readable.

File: Mathlib/RingTheory/Etale/StandardEtale.lean [hunk 3]
```diff
@@ -235,3 +239,176 @@ lemma equivMvPolynomialQuotient_symm_apply :
...
+
+/-- The `Algebra.Presentation` associated to a standard etale presentation. -/
+@[simps!]
+def StandardEtalePresentation.toPresentation : Algebra.Presentation R S (Fin 2) (Fin 2) where
+  __ := Algebra.Generators.ofAlgHom ((P.lift _ P.hasMap).comp
+      (P.equivMvPolynomialQuotient.symm.toAlgHom.comp (Ideal.Quotient.mkₐ _ _)))
+    (P.lift_bijective.surjective.comp
+      (P.equivMvPolynomialQuotient.symm.surjective.comp Ideal.Quotient.mk_surjective))
+  relation := ![Bivariate.equivMvPolynomial R (C P.f),
+    Bivariate.equivMvPolynomial R (.X * C P.g - 1)]
```
Comment (chrisflav) [inline Mathlib/RingTheory/Etale/StandardEtale.lean:276]: Do we really want this def-eq instead of the explicit terms of `MvPolynomial (Fin 2) R`?

File: Mathlib/RingTheory/Etale/StandardEtale.lean [hunk 4]
```diff
@@ -235,3 +239,176 @@ lemma equivMvPolynomialQuotient_symm_apply :
...
+lemma StandardEtalePresentation.aeval_val_equivMvPolynomial (p : R[X]) :
+    MvPolynomial.aeval P.toPresentation.val
+    (Bivariate.equivMvPolynomial R (.C p)) = p.aeval P.x := by
+  change (((MvPolynomial.aeval _).comp (Bivariate.equivMvPolynomial R).toAlgHom).comp CAlgHom) _ = _
+  congr 1
+  ext
+  simp
+
+/-- The `Algebra.SubmersivePresentation` associated to a standard etale presentation. -/
+def StandardEtalePresentation.toSubmersivePresentation :
```
Comment (chrisflav) [inline Mathlib/RingTheory/Etale/StandardEtale.lean:299]:
```suggestion
/-- The `Algebra.SubmersivePresentation` associated to a standard etale presentation. -/
@[simps map toPresentation]
def StandardEtalePresentation.toSubmersivePresentation :
```

File: Mathlib/RingTheory/Etale/StandardEtale.lean [hunk 5]
```diff
@@ -235,3 +239,176 @@ lemma equivMvPolynomialQuotient_symm_apply :
...
+  hasMap := P.hasMap.map e.toAlgHom
+  lift_bijective := (show P.lift (e P.x) (P.hasMap.map e.toAlgHom) = e.toAlgHom.comp
+    (P.lift _ P.hasMap) from P.hom_ext (by simp)) ▸ e.bijective.comp P.lift_bijective
+
+namespace Algebra
+
+variable (R S) in
+/-- The class of standard etale algebras,
+defined to be the existence of a `StandardEtalePresentation`. -/
+class IsStandardEtale where
```
Comment (chrisflav) [inline Mathlib/RingTheory/Etale/StandardEtale.lean]: Please also repeat the parameters here.

File: Mathlib/RingTheory/Etale/StandardEtale.lean [hunk 6]
```diff
@@ -235,3 +239,176 @@ lemma equivMvPolynomialQuotient_symm_apply :
...
+  ⟨⟨P, P.X, P.hasMap_X, by simpa [StandardEtalePair.lift_X_left] using Function.bijective_id⟩⟩
+
+instance (priority := low) [IsStandardEtale R S] : Algebra.FinitePresentation R S :=
+  IsStandardEtale.nonempty_standardEtalePresentation
+    |>.some.toPresentation.finitePresentation_of_isFinite
+
+instance (priority := low) [IsStandardEtale R S] : Algebra.FormallyEtale R S :=
+  .of_equiv IsStandardEtale.nonempty_standardEtalePresentation.some.equivRing.symm
+
+instance (priority := low) [IsStandardEtale R S] : Algebra.Etale R S where
```
Comment (chrisflav) [inline Mathlib/RingTheory/Etale/StandardEtale.lean]: Could you please show `Algebra.IsSmoothOfRelativeDimension R S 0` instead? Then all of these are by `inferInstance`.

File: Mathlib/RingTheory/Etale/StandardEtale.lean [hunk 7]
```diff
@@ -235,3 +239,177 @@ lemma equivMvPolynomialQuotient_symm_apply :
...
+    set P : StandardEtalePair R := ⟨.X, by simp, 1, 1, 0, 0, by simp⟩
+    have : P.X = 0 := Ideal.Quotient.eq_zero_iff_mem.mpr (Ideal.subset_span (Set.mem_insert _ _))
+    let e := AlgEquiv.ofAlgHom (P.lift (0 : R) ⟨by simp [P], by simp [P]⟩) (Algebra.ofId _ _)
+      (by ext) (by ext; simp [this])
+    exact e.bijective⟩⟩⟩
+
+lemma IsStandardEtale.of_isLocalizationAway [IsStandardEtale R S]
+    {Sₛ : Type*} [CommRing Sₛ] [Algebra S Sₛ]
+    [Algebra R Sₛ] [IsScalarTower R S Sₛ] (s : S) [IsLocalization.Away s Sₛ] :
+    IsStandardEtale R Sₛ := by
```
Comment (chrisflav) [inline Mathlib/RingTheory/Etale/StandardEtale.lean:356]: Is `IsStandardEtale.trans` a theorem? If yes, should this lemma be specialized to `R = S`?

Comment (erdOne) [reply Mathlib/RingTheory/Etale/StandardEtale.lean:356]: I doubt that this is true.

File: Mathlib/RingTheory/Etale/StandardEtale.lean (hunk 4 above)
Comment (erdOne) [reply Mathlib/RingTheory/Etale/StandardEtale.lean:299]:
```
Invalid simp lemma StandardEtalePresentation.toSubmersivePresentation_toPresentation_. Structure Algebra.SubmersivePresentation does not have projection toPresentation.
```

Comment (chrisflav) [reply Mathlib/RingTheory/Etale/StandardEtale.lean:299]: Oh sorry, replace `toPresentation` by `toPreSubmersivePresentation_toPresentation`.

File: Mathlib/RingTheory/Etale/StandardEtale.lean (hunk 3 above)
Comment (erdOne) [reply Mathlib/RingTheory/Etale/StandardEtale.lean:276]: I'm not sure if there is a better spelling for `Bivariate.equivMvPolynomial R (C P.f)`.
I think `P.f.aeval (.X 0)` is less useful.

File: Mathlib/RingTheory/Etale/StandardEtale.lean (hunk 4 above)
Comment (erdOne) [reply Mathlib/RingTheory/Etale/StandardEtale.lean:299]: Ah of course. Thanks!

File: Mathlib/RingTheory/Etale/StandardEtale.lean (hunk 1 above)
Comment (erdOne) [reply Mathlib/RingTheory/Etale/StandardEtale.lean:257]: Would writing out `P.toStandardEtalePair.Ring` in full look better?

Comment (chrisflav) [reply Mathlib/RingTheory/Etale/StandardEtale.lean:257]: Hmm, not sure. Maybe I can just live with this.

File: Mathlib/RingTheory/Etale/StandardEtale.lean [hunk 8]
```diff
@@ -235,3 +242,167 @@ lemma equivMvPolynomialQuotient_symm_apply :
...
+      aeval_val_equivMvPolynomial, P.hasMap.2, P.hasMap.isUnit_derivative_f]
+
+lemma StandardEtalePresentation.toSubmersivePresentation_jacobian :
+    P.toSubmersivePresentation.jacobian = aeval P.x P.f.derivative * aeval P.x P.g := by
+  simp [StandardEtalePresentation.toSubmersivePresentation,
+    Algebra.PreSubmersivePresentation.jacobian_eq_jacobiMatrix_det,
+    Matrix.det_fin_two, Algebra.PreSubmersivePresentation.jacobiMatrix_apply,
+    Polynomial.Bivariate.pderiv_zero_equivMvPolynomial,
+    Polynomial.Bivariate.pderiv_one_equivMvPolynomial,
+    aeval_val_equivMvPolynomial]
```
Comment (chrisflav) [inline Mathlib/RingTheory/Etale/StandardEtale.lean]: Could you please first define `StandardEtalePresentation.toPreSubmersivePresentation`, then show this lemma and deduce `StandardEtalePresentation.toSubmersivePresentation`? Right now you are doing the computation of the jacobian twice.

File: Mathlib/RingTheory/Etale/StandardEtale.lean [hunk 9]
```diff
@@ -235,3 +242,167 @@ lemma equivMvPolynomialQuotient_symm_apply :
...
+  have := IsLocalization.Away.mul S' (Localization.Away (algebraMap _ S' (AdjoinRoot.mk P.f p)))
+    (AdjoinRoot.mk P.f P.g) (.mk _ p)
+  rw [← map_mul] at this
+  have H : Submonoid.map e.symm.toRingEquiv.toMonoidHom (.powers
+      (algebraMap _ S' (AdjoinRoot.mk P.f p))) = .powers (aeval P.x p) := by
+    rw [Submonoid.map_powers]
+    congr 1
+    change ((e.symm.toAlgHom.comp (IsScalarTower.toAlgHom R (AdjoinRoot P.f) S')).comp
+      (AdjoinRoot.mkₐ P.f)) p = _
+    congr 1
```
Comment (chrisflav) [inline Mathlib/RingTheory/Etale/StandardEtale.lean]: Is there anything we can do here to improve this? Is there some `rw` lemma missing?

File: Mathlib/RingTheory/Etale/StandardEtale.lean (hunk 8 above)
Comment (erdOne) [reply Mathlib/RingTheory/Etale/StandardEtale.lean]: I prefer not having unnecessary definitions though. I've changed it a bit and I think it is better now?

File: Mathlib/RingTheory/Etale/StandardEtale.lean (hunk 9 above)
Comment (erdOne) [reply Mathlib/RingTheory/Etale/StandardEtale.lean]: Do you like the new proof better?

Comment (chrisflav) [reply Mathlib/RingTheory/Etale/StandardEtale.lean]: Yes, better.

File: Mathlib/RingTheory/Etale/StandardEtale.lean (hunk 8 above)
Comment (chrisflav) [reply Mathlib/RingTheory/Etale/StandardEtale.lean]: But you have this "unnecessary" definition anyway, because it is contained in `toSubmersivePresentation`. I still think splitting `toSubmersivePresentation` up would be better, but I also think it does not terribly matter.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
